US07405305B2
2-(2,2-Dimethoxyethyl)-6-methylaniline
Add to a round bottomed flask containing 1-(2,2-dimethoxyethyl)-3-methyl-2-nitrobenzene (1.1 g) in methanol (50 mL), 10% palladium on carbon (0.13 g). Purge with nitrogen then place under a hydrogen atmosphere using a balloon of hydrogen. Stir overnight at room temperature. Filter through Celite, wash with methanol. Concentrate to give product (0.98 g, 103%) as a clear oil. 1H NMR (400 MHz, DMSO-d6) δ 2.05 (s, 3H), 2.71 (d, J=5.36 Hz, 211), 3.23 (s, 6H), 4.52 (m, 3H), 6.42 (m, 1H), 6.80 (d, J=7.31 Hz, 2H).

reactant | 1-(2,2-dimethoxyethyl)-3-methyl-2-nitrobenzene | 1.1 g | COC(CC1=C(C(=CC=C1)C)[N+](=O)[O-])OC | C11H15NO4
solvent | methanol | 50 mL | CO | CH4O
catalyst | palladium on carbon | 0.13 g | [Pd] | Pd
product | 2-(2,2-Dimethoxyethyl)-6-methylaniline | 0.98 g, 103% | COC(CC1=C(N)C(=CC=C1)C)OC | C11H17NO2
